US05356916
To 30 ml of n-propanol, there were added 2.695 g of 4-(3-chloropropoxy)benzonitrile and 10.21 g of imidazole and the resulting mixture was heated under reflux for 24 hours. After concentration of the reaction mixture, water was added to the residue obtained, followed by extraction with chloroform, washing of the resulting extract with water and then drying the same. After concentration of the extract, the residue obtained was recrystallized from a mixture of ether and n-hexane, followed by addition of n-hexane, filtration and drying to give 2.575 g (yield 75.3%) of 4-[3-(1H-imidazolyl)propoxy]benzonitrile having a melting point of 60.0°-61.5° C.

reactant | n-propanol | 30 ml | C(CC)O | C3H8O
reactant | 4-(3-chloropropoxy)benzonitrile | 2.695 g | ClCCCOC1=CC=C(C#N)C=C1 | C10H10ClNO
reactant | imidazole | 10.21 g | N1C=NC=C1 | C3H4N2
solvent | water | O | H2O
product | 4-[3-(1H-imidazolyl)propoxy]benzonitrile | 2.575 g, yield 75.3% | N1(C=NC=C1)CCCOC1=CC=C(C#N)C=C1 | C13H13N3O
